US07790720B2
In a flask fitted with a magnetic stirrer and a reflux condenser, {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}methanol i109 (0.67 mmol, 1 eq, 0.2 g), pyrrolidinone (0.8 mmol, 1.2 eq, 0.069 g) and p-toluenesulfonic acid (0.067 mmol, 0.1 eq, 0.013 g) are dissolved in toluene (5 ml) and the mixture is brought to reflux overnight. After this time, the mixture is concentrated, taken up in ethyl acetate and washed with a saturated solution of sodium bicarbonate. The organic layer is dried over magnesium sulfate and concentrated to dryness to give 0.295 g of 1-({2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}methyl)pyrrolidin-2-one i110. This crude product is used in the next step without further purification.

reactant | {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}methanol | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CO | C14H16ClNO2S
reactant | pyrrolidinone | 0.8 mmol, 0.069 g, 1.2 eq | N1C(CCC1)=O | C4H7NO
reactant | p-toluenesulfonic acid | 0.067 mmol, 0.013 g, 0.1 eq | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-({2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}methyl)pyrrolidin-2-one | 0.295 g, Yield: 100% | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CN1C(CCC1)=O | C18H21ClN2O2S
